US09193694B2
Synthesis of 3-(pyridin-2-ylmethyl)-6-(4-(trifluoromethoxy)phenyl)chroman-4-one.
A solution of 150 mg 3-(pyridin-2-ylmethylene)-6-(4-(trifluoromethoxy)phenyl)chroman-4-one (0.38 mmol) in 20 mL EtOH with catalytic Pd/C was stirred under 1 atm of hydrogen gas for 16 h. The reaction was filtered through celite and the filtrate concentrated. The filtrate was purified on silica gel column eluting with EA:Hex. 85 mg of an off-white solid was collected. m/z=400.

reactant | 3-(pyridin-2-ylmethylene)-6-(4-(trifluoromethoxy)phenyl)chroman-4-one | 0.38 mmol, 150 mg | N1=C(C=CC=C1)C=C1COC2=CC=C(C=C2C1=O)C1=CC=C(C=C1)OC(F)(F)F | C22H14F3NO3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-(pyridin-2-ylmethyl)-6-(4-(trifluoromethoxy)phenyl)chroman-4-one | N1=C(C=CC=C1)CC1COC2=CC=C(C=C2C1=O)C1=CC=C(C=C1)OC(F)(F)F | C22H16F3NO3
